US07452886B2
To a solution of 5 g (16.8 mmoles) of tert.-butoxycarbonylmethyl-(4-fluoro-phenyl)-amino]-acetic acid methyl ester in 100 ml of MeOH, 33.7 ml of 1 mole aqueous KOH is added at 0° C. The reaction mixture is stirred for 4 hours and acidified with 1 mole aueous HCl. The mixture is extracted with CH2Cl2 several times and the combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure to give 4.08 g of desired crude mono acid in 85% yield. The crude acid in 200 ml of CH2Cl2 is treated with 31 ml of TFA. After being stirred for 18 hours at ambient temperature, the reaction mixture is concentrated under reduced pressure to give 4.92 g of desied [carboxymethyl-(4-fluoro-phenyl)-amino]-acetic acid in 100% yield as trifluoroacetic acid salt. To a solution of 4.92 g (14.4 mmoles) of [carboxymethyl-(4-fluoro-phenyl)-amino]-acetic acid in 300 ml of CH2Cl2, 9.63 ml (69.2 mmoles) of triethylamine, 4.67 g (34.6 mmoles) of 1H-hydroxybenztriazole and 2.45 g (21.7 mmoles) of trifluoroacetamide are successively added and then 6.64 g (34.6 mmoles) of 1-[3(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride is added at 0° C. The reaction mixture is allowed to warm to ambient temperature and stirred for 18 hours. The reaction mixture is quenched with cold H2O and extracted with CH2Cl2. The combined extracts are washed with H2O, brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: n-Hexane:AcOEt=1:1) to give 1.15 g of desired 4-(4-fluoro-phenyl)-piperazine-2,6-dione in 38% yield.

reactant | [carboxymethyl-(4-fluoro-phenyl)-amino]-acetic acid | 14.4 mmoles, 4.92 g | C(=O)(O)CN(C1=CC=C(C=C1)F)CC(=O)O | C10H10FNO4
reactant | triethylamine | 69.2 mmoles, 9.63 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetamide | 21.7 mmoles, 2.45 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | 1-[3(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 34.6 mmoles, 6.64 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-fluoro-phenyl)-piperazine-2,6-dione | 1.15 g, 38% yield | FC1=CC=C(C=C1)N1CC(NC(C1)=O)=O | C10H9FN2O2
